US09079866B2
4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]carbonyl}piperazin-2-one
The title compound was prepared using methods analogous to those described in Step C of Example 504 using 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid and piperazin-2-one. MS (ESI): mass calcd. for C21H18FN5O2, 391.14; m/z found, 392.1 [M+H]+. 1H NMR (400 MHz, CDCl3) Complex due to the presence of multiple conformations on the NMR time-scale, peaks listed for identification purposes only: δ 8.58-8.55 (m), 8.50-8.40 (m), 8.10 (d, J=1.5), 8.04-7.98 (m), 7.56-7.41 (m), 7.37-7.27 (m), 6.75 (s), 6.43 (s), 5.06 (s), 4.83 (s), 4.45 (d, J=19.2), 4.05-3.95 (m), 3.72-3.46 (m), 3.27 (s), 3.14 (s), 2.97 (s), 2.67 (s).

reactant | 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | NC1=NC=C(N=C1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
reactant | piperazin-2-one | N1C(CNCC1)=O | C4H8N2O
product | 4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]carbonyl}piperazin-2-one | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)C(=O)N1CC(NCC1)=O)F | C21H18FN5O2
